US08017608B2
1a) Pyrazin-2-yl-thiourea
Aminopyrazine (2 g, 21.03 mmol) is dissolved in ethanol (20 ml) and benzoylisothiocyanate (2.82 ml) is added dropwise. The mixture is heated to 80° C. with stirring for 10 minutes then allowed to cool to room temperature. The solvent is removed in vacuo and the resulting solid dissolved in 1M sodium hydroxide (30 ml) and heated under reflux for 1 hour. The resultant suspension is filtered and the solid washed with water and a little cold methanol. The solid is dried in vacuo to yield the title compound, m.p. 239-239.5° C., MH+ (AP+): 138 (M+-NH3).

reactant | Aminopyrazine | 21.03 mmol, 2 g | NC1=NC=CN=C1 | C4H5N3
reactant | benzoylisothiocyanate | 2.82 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Pyrazin-2-yl-thiourea | N1=C(C=NC=C1)NC(=S)N | C5H6N4S
